US07691869B2
To a solution of the title A compound, 7-(2-bromoethyl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine (206.4 mg, 0.75 mmol) and N-(2,4-difluorophenyl)-N,N′-dimethylethylene-1,2-diamine (150 mg, 0.75 mmol) in 5.0 mL of anhydrous acetone is added potassium carbonate (311 mg, 2.25 mmol) at RT under positive N2 pressure. The mixture is stirred at 50° C. for 24 h. The solvent is removed in vacuo after the reaction mixture is cooled down to RT. The residue is absorbed directly onto silica gel and chromatographed to yield N1-(2-(2-amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)ethyl)-N2-(2,4-difluorophenyl)-N1,N2-dimethylethane-1,2-diamine as a brown gummy solid.

reactant | 7-(2-bromoethyl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 0.75 mmol, 206.4 mg | BrCCN1C=CC2=C1N=C(N=C2Cl)N | C8H8BrClN4
reactant | N-(2,4-difluorophenyl)-N,N′-dimethylethylene-1,2-diamine | 0.75 mmol, 150 mg | CNCCN(C)C1=C(C=C(C=C1)F)F | C10H14F2N2
reactant | potassium carbonate | 2.25 mmol, 311 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5.0 mL | CC(=O)C | C3H6O
product | N1-(2-(2-amino-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)ethyl)-N2-(2,4-difluorophenyl)-N1,N2-dimethylethane-1,2-diamine | NC=1N=C(C2=C(N1)N(C=C2)CCN(CCN(C)C2=C(C=C(C=C2)F)F)C)Cl | C18H21ClF2N6
